US07262220B2
3-[3-(2-Chloro-4-fluorobenzoyl)ureido]-4-methoxycarbonylaminobenzoic acid
28 mg (0.08 mmol) of 4-amino-3-[3-(2-chloro-4-fluorobenzoyl)ureido]benzoic acid were dissolved in 0.5 ml of N-methyl-2-pyrrolidinone and stirred with 0.02 ml (0.24 mmol) of pyridine and 0.007 ml of methyl chloroformate at room temperature for 4 hours. Water and acetic acid were added, and the resulting precipitate was filtered off with suction. 18 mg (55%) of the desired product were obtained.

reactant | 4-amino-3-[3-(2-chloro-4-fluorobenzoyl)ureido]benzoic acid | 0.08 mmol, 28 mg | NC1=C(C=C(C(=O)O)C=C1)NC(=O)NC(C1=C(C=C(C=C1)F)Cl)=O | C15H11ClFN3O4
reactant | pyridine | 0.24 mmol, 0.02 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 0.007 ml | ClC(=O)OC | C2H3ClO2
reactant | Water | O | H2O
solvent | N-methyl-2-pyrrolidinone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[3-(2-Chloro-4-fluorobenzoyl)ureido]-4-methoxycarbonylaminobenzoic acid | 18 mg, 55% | ClC1=C(C(=O)NC(NC=2C=C(C(=O)O)C=CC2NC(=O)OC)=O)C=CC(=C1)F | C17H13ClFN3O6
